US05273972
A. 2-(1-Piperidinylmethyl)-1-azabicyclo[2.2.2]octan-3-one
A reaction flask containing 2-methylenequinuclidin-3-one (6.86 g, 50 mmoles) and a magnetic stir bar was charged with piperidine (12 ml, 120 mmoles). The mixture was stirred at room temperature for 18 hours, and the mixture was added to hexane (300 ml). The solution was filtered through Celite® and the filtrate was concentrated in vacuo (maximum temperature 60° C.) to provide 11.03 g (99%) of the product as a pale yellow solid, mp 34°-37° C.

reactant | 2-methylenequinuclidin-3-one | 50 mmoles, 6.86 g | C=C1N2CCC(C1=O)CC2 | C8H11NO
reactant | piperidine | 120 mmoles, 12 ml | N1CCCCC1 | C5H11N
solvent | hexane | 300 ml | CCCCCC | C6H14
product | 2-(1-Piperidinylmethyl)-1-azabicyclo[2.2.2]octan-3-one | 11.03 g, 99% | N1(CCCCC1)CC1N2CCC(C1=O)CC2 | C13H22N2O
